US04719200
N-(3-phenylpropionyl)-L-alanyl-L-prolyl-L-proline (1.00 g, 2.41 m mole) was dissolved in a solution of L-arginine (0.42 g, 2.41 m mole) in water (30 ml), and the thus obtained solution was freeze-dried to give N-(3-phenylpropinyl)-L-alanyl-L-prolyl-L-proline L-arginine salt (1.40 g).

reactant | N-(3-phenylpropionyl)-L-alanyl-L-prolyl-L-proline | 1.00 g | C1(=CC=CC=C1)CCC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C22H29N3O5
reactant | L-arginine | 0.42 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | water | 30 ml | O | H2O
product | N-(3-phenylpropinyl)-L-alanyl-L-prolyl-L-proline L-arginine salt | 1.40 g | N[C@@H](CCCNC(N)=N)C(=O)O.C1(=CC=CC=C1)CC#CN[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | InChI=1S/C22H27N3O4.C6H14N4O2/c1-16(23-13-5-10-17-8-3-2-4-9-17)20(26)24-14-6-11-18(24)21(27)25-15-7-12-19(25)22(28)29;7-4(5(11)12)2-1-3-10-6(8)9/h2-4,8-9,16,18-19,23H,6-7,10-12,14-15H2,1H3,(H,28,29);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t16-,18-,19-;4-/m00/s1
